US07417060B2
The mixture of tert-butyl [(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl][2-[3′-isobutyl-4′-[[(methylsulfonyl)amino]-carbonyl]-4-biphenylyl]ethyl]carbamate (310 mg), ammonium formate (155 mg) and palladium on carbon powder (155 mg) in methanol (5 ml) and water (0.5 ml) was refluxed for 30 minutes. The catalyst was filtered off, and the filtrate was poured into water and extracted with chloroform-methanol (19:1). The organic layer was washed with brine, dried over magnesium sulfate, and evaporated to give pyridine product. To a solution of the product in ethyl acetate (1.8 ml) was added 4N hydrogen chloride in ethyl acetate (1.8 ml), and the mixture was stirred at room temperature for 16 hours. The resultant solid was collected by filtration and dried to give 4′-[2-[[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]amino]-ethyl]-3-isobutyl-N-(methylsulfonyl)-4-biphenylcarboxamide dihydrochloride (93 mg).

reactant | tert-butyl [(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl][2-[3′-isobutyl-4′-[[(methylsulfonyl)amino]-carbonyl]-4-biphenylyl]ethyl]carbamate | 310 mg | ClC1=CC=C(C=N1)[C@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)C)CC(C)C)O | C32H40ClN3O6S
reactant | ammonium formate | 155 mg | C(=O)[O-].[NH4+]
reactant | hydrogen chloride | 4N | Cl | ClH
catalyst | palladium on carbon | 155 mg | [Pd] | Pd
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
solvent | ethyl acetate | 1.8 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.8 ml | C(C)(=O)OCC | C4H8O2
product | 4′-[2-[[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]amino]-ethyl]-3-isobutyl-N-(methylsulfonyl)-4-biphenylcarboxamide dihydrochloride | 93 mg | Cl.Cl.O[C@@H](CNCCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)C)CC(C)C)C=1C=NC=CC1 | InChI=1S/C27H33N3O4S.2ClH/c1-19(2)15-24-16-22(10-11-25(24)27(32)30-35(3,33)34)21-8-6-20(7-9-21)12-14-29-18-26(31)23-5-4-13-28-17-23;;/h4-11,13,16-17,19,26,29,31H,12,14-15,18H2,1-3H3,(H,30,32);2*1H/t26-;;/m0../s1
